US08314088B2
(6R)-6-(methoxymethyl)-3-[2-(methoxymethyl)pyrrolidin-1-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride
To a solution of (6R)-8-benzyl-6-(methoxymethyl)-3-[2-(methoxymethyl)pyrrolidin-1-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (329 mg) in methanol (10 mL) was added 20% Pd(OH)2/C (40 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 3 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. To a solution of the obtained crude product in ethyl acetate (10 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (227 μL), and the mixture was stirred for 30 min. The reaction mixture was filtered, and the obtained crystals were washed with ethyl acetate to give the title compound (155 mg, 54%).

reactant | (6R)-8-benzyl-6-(methoxymethyl)-3-[2-(methoxymethyl)pyrrolidin-1-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 329 mg | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)N2C(CCC2)COC)COC | C22H30N4O3
reactant | hydrogen chloride-ethyl acetate | 4 N, 227 μL | C(C)(=O)OCC.Cl
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 40 mg | [OH-].[OH-].[Pd+2]
product | (6R)-6-(methoxymethyl)-3-[2-(methoxymethyl)pyrrolidin-1-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride | 155 mg, 54% | Cl.COC[C@@H]1OC2=C(CNC1)N=CC(=N2)N2C(CCC2)COC | InChI=1S/C15H24N4O3.ClH/c1-20-9-11-4-3-5-19(11)14-8-17-13-7-16-6-12(10-21-2)22-15(13)18-14;/h8,11-12,16H,3-7,9-10H2,1-2H3;1H/t11?,12-;/m1./s1
